US08048899B2
To a solution of 1.64 g (6.31 mmol) of 2-(2,3-difluoro-phenylsulfanyl)-2-methyl-propionic acid ethyl ester in THF (165 mL) at room temperature are added 1.62 g (12.6 mmol) of potassium trimethylsilanolate. The reaction is stirred at room temperature for 18 h. The solvent is removed under reduced pressure and the residue is partitioned between water and diethyl ether. The basic aqueous layer is separated, acidified using 1M aqueous HCl solution to pH 1 and extracted with DCM (3×100 mL). The organic phase is dried over MgSO4, filtered and the filtrate is concentrated under reduced pressure to give 1.32 g of 2-(2,3-difluoro-phenylsulfanyl)-2-methyl-propionic acid as a pale yellow solid. Yield: 90%, ES-MS: m/z 231 [M−H].

reactant | 2-(2,3-difluoro-phenylsulfanyl)-2-methyl-propionic acid ethyl ester | 6.31 mmol, 1.64 g | C(C)OC(C(C)(C)SC1=C(C(=CC=C1)F)F)=O | C12H14F2O2S
reactant | potassium trimethylsilanolate | 12.6 mmol, 1.62 g | C[Si]([O-])(C)C.[K+]
solvent | THF | 165 mL | C1CCOC1 | C4H8O
product | 2-(2,3-difluoro-phenylsulfanyl)-2-methyl-propionic acid | 1.32 g, Yield: 90% | FC1=C(C=CC=C1F)SC(C(=O)O)(C)C | C10H10F2O2S
